US20010003782A1
3β-tert-Butyldimethylsilyloxy-4,4-dimethyl-5α-chola-8,14-dien-24 oic acid (0.50 g) is dissolved in 15 ml of dry dichloromethane. After cooling to −15° C. 0.188 ml of N-methylmorpholine and 0.153 ml of isobutylchloroformiate is added and the mixture is stirred at −15° C. for 20 minutes whereupon 0.44 ml of aniline is added. The mixture is stirred overnight and the temperature is slowly elevated to room temperature. After aqueous work-up and crystallization from methanol, 3β-tert-butyldimethylsilyloxy-4,4-dimethyl-5α-chola-8,14-dien-24-oic acid-N-phenyl amide (0.431 g) is obtained. H-NMR (CDCl3, 400 MHz): δ=7.53 (2H,d); 7.34 (2H,t); 7.17 (1Hs ); 7.12 (1H,t); 5.35 (1H,s); 3.21 (1H,m); 0.9 (9H,s ); 0.04 (6H,m).

reactant | 3β-tert-Butyldimethylsilyloxy-4,4-dimethyl-5α-chola-8,14-dien-24 oic acid | 0.50 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C([C@@H]2CCC=3C4=CC[C@H]([C@@H](CCC(=O)O)C)[C@]4(CCC3[C@]2(CC1)C)C)(C)C | C32H54O3Si
reactant | N-methylmorpholine | 0.188 ml | CN1CCOCC1 | C5H11NO
reactant | aniline | 0.44 ml | NC1=CC=CC=C1 | C6H7N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 3β-tert-butyldimethylsilyloxy-4,4-dimethyl-5α-chola-8,14-dien-24-oic acid-N-phenyl amide | 0.431 g | C1(=CC=CC=C1)NC(CC[C@@H](C)[C@H]1CC=C2C=3CC[C@H]4C([C@H](CC[C@]4(C)C3CC[C@]12C)O[Si](C)(C)C(C)(C)C)(C)C)=O | C38H59NO2Si
